US05922751
A: Ethyl 5-(3-cyclopentyloxV-4-methoxyphenyl)-3-oxo-5-hydroxypentanoate
Sodium hydride (6.0 g of 60% sodium hydride in mineral oil, 0.15 mol) was placed in a 3-neck flask equiped with a mechanical stirrer under nitrogen and washed twice with hexanes. THF (200 mL) was added and the mixture was cooled in an ice bath. Ethyl acetoacetate (17.6 g, 0.135 mol) was added dropwise and the mixture was stirred for 10 minutes after the addition. Butyllithium (0.35 mol, 84 mL of 1.6M solution in hexanes) was added dropwise to give an orange solution. A solution of 3-cyclopentyloxy-4-methoxybenzaldehyde (29.6 g, 0.135 mol) in THF (100 mL) was added dropwise. After 10 minutes, the cold solution was treated with concentrated hydrochloric acid (26 mL, 0.29 mol), water (65 mL) and ether (500 mL). The ether layer was separated and washed with saturated brine (3×300 mL). The ether was evaporated to give 46.5 g of crude title compound. The crude product was dissolved in a small amount of 30% methylene chloride/hexanes and purified by chromatography over 400 g of flash chromatography silica gel. Elution with methylene chloride/hexane mixtures removed 9 g of starting aldehyde. Elution with 1% methanol/methylene chloride afforded the ethyl 5-(3-cyclopentyloxy-4-methoxyphenyl)-3-oxo-5-hydroxypentanoate (25.0 g, 53%) as an oil.

reactant | Sodium hydride | 0.15 mol, 6.0 g | [H-].[Na+]
reactant | Ethyl acetoacetate | 0.135 mol, 17.6 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | Butyllithium | 0.35 mol, 1.6M, 84 mL | C(CCC)[Li]
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 0.135 mol, 29.6 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | hydrochloric acid | 0.29 mol, 26 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | water | 65 mL | O | H2O
product | ethyl 5-(3-cyclopentyloxy-4-methoxyphenyl)-3-oxo-5-hydroxypentanoate | 25.0 g, 53% | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(CC(=O)OCC)=O)O | C19H26O6
